US09416135B2
To a solution of tert-butyl 2-isopropyl-3-oxopiperazine-1-carboxylate (200 mg, 0.83 mmol) in NMP (3 mL) was added 2-bromo-4-(methylsulfonyl)aniline (207 mg, 0.83 mmol), (1R,2S)—N1,N2-dimethylcyclohexane-1,2-diamine (12.0 mg, 0.08 mmol), K3PO4.3H2O (660 mg, 2.48 mmol), Cul (16 mg, 0.08 mmol). The mixture was stirred at 150° C. for 1 h under microwave. The mixture was diluted with water (10 mL) and extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine (10 mL), dried over anhydrous Na2SO4, filtered, concentrated and purified by preparative TLC with CH2Cl2/MeOH 35/1 to afford tert-butyl 1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazine-2(1H)-carboxylate (110 mg, 34% yield) as a white solid.

reactant | tert-butyl 2-isopropyl-3-oxopiperazine-1-carboxylate | 0.83 mmol, 200 mg | C(C)(C)C1N(CCNC1=O)C(=O)OC(C)(C)C | C12H22N2O3
reactant | 2-bromo-4-(methylsulfonyl)aniline | 0.83 mmol, 207 mg | BrC1=C(N)C=CC(=C1)S(=O)(=O)C | C7H8BrNO2S
reactant | (1R,2S)—N1,N2-dimethylcyclohexane-1,2-diamine | 0.08 mmol, 12.0 mg | CN[C@H]1[C@H](CCCC1)NC | C8H18N2
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
solvent | water | 10 mL | O | H2O
product | tert-butyl 1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazine-2(1H)-carboxylate | 110 mg, 34% yield | C(C)(C)C1C=2N(CCN1C(=O)OC(C)(C)C)C1=C(N2)C=CC(=C1)S(=O)(=O)C | C19H27N3O4S
